US04894380
2-Mercapto-5-(pyrid-3-yl)-1,3,4-oxadiazole
13.7 g (0.1 mol) of nicotinic acid hydrazide and 8 g (0.105 mol) of carbon disulfide are added dropwise to a solution of 56 g (0.1 mol) of potassium hydroxide in 20 g of water and 350 ml of 95% ethanol. The reaction mixture is refluxed for 3 hours, then the solvent is evaporated off under vacuum and the residue is dried under a high vacuum. The dry residue is stirred in 75 ml of water, filtered, and the filtrate is neutralised with 1N hydrochloric acid. The precipitated product is isolated by filtration, washed in succession with acetone and hexane and vacuum dried, affording 9.9 g (55% of theory) of the title compound with a melting point of 237° C.

reactant | nicotinic acid hydrazide | 0.1 mol, 13.7 g | C(C1=CN=CC=C1)(=O)NN | C6H7N3O
reactant | carbon disulfide | 0.105 mol, 8 g | C(=S)=S | CS2
reactant | potassium hydroxide | 0.1 mol, 56 g | [OH-].[K+]
solvent | water | 20 g | O | H2O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 2-Mercapto-5-(pyrid-3-yl)-1,3,4-oxadiazole | SC=1OC(=NN1)C=1C=NC=CC1 | C7H5N3OS
